US05585500
A solution of 13.4 ml (0.25 mole) sulfuric acid in 40 ml DME was added dropwise to a suspension of 25.6 g (0.125 mole) (S)-1-benzyl-3-hydroxy-2,5-pyrrolidine dione (IIa) and 19 g (0.5 mole) sodium boron hydride in 150 ml DME within 1.5 h at 35° C. The mixture was subsequently agitated 2 h at 70° C. After cooling off, 40 ml MeOH were added and the batch was evaporated to dryness. The residue was taken up in 120 ml water and agitated overnight at room temperature with 30 ml conc. hydrochloric acid and 150 ml toluene. After alkalization with 45 ml 50% sodium hydroxide solution the toluene phase was separated off at 70° C. and the aqueous phase subsequently extracted [re-extracted] with 100 ml toluene. The toluene phases were evaporated to dryness after drying over sodium sulfate, during which 22.7 g oil were obtained. It was taken up in 150 ml toluene, 100 ml water and 15 ml conc. hydrochloric acid and agitated overnight at room temperature. After repetition of the described workup 21.7 g (97.9%) (S)-1-benzyl-3-hydroxypyrrolidine (IIIa) were obtained as oil.

reactant | sulfuric acid | 0.25 mole, 13.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | (S)-1-benzyl-3-hydroxy-2,5-pyrrolidine dione | 0.125 mole, 25.6 g | C(C1=CC=CC=C1)N1C([C@H](CC1=O)O)=O | C11H11NO3
reactant | sodium boron hydride | 0.5 mole, 19 g | B.[Na]
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | DME | 40 ml | COCCOC | C4H10O2
solvent | DME | 150 ml | COCCOC | C4H10O2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
solvent | MeOH | 40 ml | CO | CH4O
product | (S)-1-benzyl-3-hydroxypyrrolidine | 21.7 g, 97.9% | C(C1=CC=CC=C1)N1C[C@H](CC1)O | C11H15NO
